US07851626B2
To a solution of 3-(3-methoxy-phenyl)-3-methyl-butan-2-one (6.570 g, 34.172 mmol) in methylene chloride (100 mL) cooled to −78° C. was added boron tribromide (102 mL, 1 M solution in methylene chloride, Aldrich). The mixture was stirred at −78° C. for 1 h, warmed up to 0° C. for 1 h then put in the freezer (−20° C.) for 72 h. At 0° C., water was added to quench the excess boron tribromide (CAUTION: Violent reaction). The product was extracted with petroleum ether. The organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated. The crude residue was purified by flash chromatography (40 g of silica gel, eluting with 5-20% ethyl acetate in hexane) to give 3-(3-hydroxy-phenyl)-3-methyl-butan-2-one as a yellow oil (5 g, 82%).

reactant | 3-(3-methoxy-phenyl)-3-methyl-butan-2-one | 34.172 mmol, 6.570 g | COC=1C=C(C=CC1)C(C(C)=O)(C)C | C12H16O2
reactant | boron tribromide | 1 M, 102 mL | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-hydroxy-phenyl)-3-methyl-butan-2-one | 5 g, 82% | OC=1C=C(C=CC1)C(C(C)=O)(C)C | C11H14O2
